### PR TITLE
feat: add `BitVec.cpop` and lemmas

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds the definition of `BitVec.cpop`, which relies on the more general `BitVec.cpopNatRec`, and build some theory around it. The name `cpop` aligns with the [RISCV ISA nomenclature](https://msyksphinz-self.github.io/riscv-isadoc/#_cpop). 

Co-authored-by: @tobiasgrosser, @bollu

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -5816,6 +5835,41 @@ theorem reverse_reverse_eq {x : BitVec w} :
   ext k hk
   rw [getElem_reverse, getMsbD_reverse, getLsbD_eq_getElem]
 
+theorem concat_eq_cons_reverse {x : BitVec w} {b : Bool} :
+    concat x b = ((x.reverse).cons b).reverse := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Should the more complex expression be on the rhs? Than we can make this `simp`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -5816,6 +5835,41 @@ theorem reverse_reverse_eq {x : BitVec w} :
...
+  ext i hi
+  simp only [← getLsbD_eq_getElem, getLsbD_concat, getLsbD_reverse, getMsbD_eq_getLsbD, hi,
+    decide_true, Nat.add_one_sub_one, getLsbD_cons, Bool.true_and]
+  by_cases hzero : i = 0
+  · simp [hzero]
+  · simp [hzero, show ¬ w - i = w by omega, show w - i < w by omega,
+          show w - 1 - (w - i) = i - 1 by omega]
+
+theorem reverse_eq_msb_concat_reverse {x : BitVec (w + 1)}:
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Should the more complex expression be on the rhs? Than we can make this `simp`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -5816,6 +5835,41 @@ theorem reverse_reverse_eq {x : BitVec w} :
...
+    x.reverse = concat ((x.setWidth w).reverse) x.msb := by
+  ext i hi
+  simp only [getElem_reverse, BitVec.msb, getElem_concat, getMsbD_setWidth, Nat.le_add_right,
+    Nat.sub_eq_zero_of_le, Nat.zero_le, decide_true, Bool.true_and, dite_eq_ite]
+  by_cases hzero : i = 0
+  · simp [hzero]
+  · simp [hzero, show i - 1 + (w + 1) - w = i by omega]
+
+theorem reverse_eq_msb_cons_reverse {x : BitVec (w + 1)}:
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Should the more complex expression be on the rhs? Than we can make this `simp`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
 
+/-! ### cpopulation Count -/
+
+@[simp]
+theorem cpopAuxRec_zero {x : BitVec w} :
+  x.cpopAuxRec 0 = 0 := by simp [BitVec.cpopAuxRec]
+
+@[simp]
+theorem cpopAuxRec_succ {w n' : Nat} {x : BitVec w} :
+  x.cpopAuxRec (n' + 1) = (if x.getLsbD n' then 1 else 0) + x.cpopAuxRec n' := by simp [BitVec.cpopAuxRec]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    x.cpopAuxRec (n' + 1) = (if x.getLsbD n' then 1 else 0) + x.cpopAuxRec n' := by
  simp [BitVec.cpopAuxRec]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
   have hclz := getLsbD_true_ctz_of_ne_zero (x := x) hx
   exact Nat.ge_two_pow_of_testBit hclz
 
+/-! ### cpopulation Count -/
+
+@[simp]
+theorem cpopAuxRec_zero {x : BitVec w} :
+  x.cpopAuxRec 0 = 0 := by simp [BitVec.cpopAuxRec]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    x.cpopAuxRec 0 = 0 := by
  simp [BitVec.cpopAuxRec]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+
+@[simp]
+theorem cpopAuxRec_succ {w n' : Nat} {x : BitVec w} :
+  x.cpopAuxRec (n' + 1) = (if x.getLsbD n' then 1 else 0) + x.cpopAuxRec n' := by simp [BitVec.cpopAuxRec]
+
+theorem cons_cpopAuxRec_eq_cpopAuxRec {x : BitVec w} {b : Bool} (hn : n ≤ w):
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cons_cpopAuxRec_eq_cpopAuxRec {x : BitVec w} {b : Bool} (hn : n ≤ w) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction n
+  · simp
+  · case _ n ihn =>
+    rw [cpopAuxRec_succ, ihn]
+    simp only [getLsbD_concat_succ, cpopAuxRec_succ]
+    rw [Nat.add_comm, Nat.add_assoc]
+    congr 1
+    rw [Nat.add_comm]
+
+theorem cpop_cons {x : BitVec w} {b : Bool}:
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpop_cons {x : BitVec w} {b : Bool} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    (x.cons b).cpop = (if b then 1 else 0) + x.cpop := by
+  simp [cpop]
+  congr 1
+  · simp [getElem_cons]
+  · rw [cons_cpopAuxRec_eq_cpopAuxRec (by omega)]
+
+theorem concat_cpop {x : BitVec w} {b : Bool} :
+    (x.concat b).cpop =  (if b then 1 else 0) + x.cpop := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    (x.concat b).cpop = (if b then 1 else 0) + x.cpop := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    congr 1
+    rw [Nat.add_comm, BitVec.getLsbD_eq_getElem]
+  · simp [show w = 0 by omega, cpop]
+
+@[simp]
+theorem cons_cpop_eq_concat_cpop {w : Nat} (x : BitVec w) :
+    (x.cons y).cpop = (x.concat y).cpop := by
+  rw [cpop_cons, concat_cpop]
+
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:6491]:
```suggestion

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+theorem setWidth_cpop_add_eq (x : BitVec (w' + 1)) :
+    (if x.msb = true then 1 else 0) + (BitVec.setWidth w' x).cpop = x.cpop := by
+  have rrt := @BitVec.cons_msb_setWidth w' x
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: This rrt line can be inlined below? Or at least not have this temporary name.

Also, `w'` could just be `w`, no?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  conv =>
+    rhs
+    rw [← rrt]
+  rw [cpop_cons]
+
+theorem reverse_cpop {w : Nat} (x : BitVec w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Make this `@[simp]`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    x.reverse.cpop = x.cpop := by
+  induction w
+  case zero =>
+    simp [BitVec.cpop, BitVec.cpopAuxRec]
+  case succ w' ih =>
+    rw [reverse_eq_msb_concat_reverse]
+    rw [← cons_cpop_eq_concat_cpop]
+    rw [cpop_cons]
+    rw [ih]
+    rw [setWidth_cpop_add_eq]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: These can be foled into a single `rw`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  · simp
+  · case _ n ihn =>
+    simp only [cpopAuxRec_succ]
+    split <;> omega
+
+theorem cpop_le {w : Nat} {x : BitVec w} :
+    x.cpop ≤ w := by
+  simp [cpop, cpopAuxRec_le]
+
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:6505]:
```suggestion

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -6291,4 +6345,107 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+theorem cpop_append_eq_add_cpop {w : Nat} {x : BitVec w} {y : BitVec v} :
+    (x ++ y).cpop = x.cpop + y.cpop := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Nice. Yes, we want this.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 1 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: Updated. Also, the theorem was not used anymore so I moved it somewhere else and will upstream it in another pr

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done and moved the theorem to a subsequent pr, as it is not needed here

File: src/Init/Data/BitVec/Lemmas.lean (hunk 2 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 11 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 13 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6505]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -6291,4 +6301,213 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+theorem cpopAuxRec_eq_of_le {w n : Nat} {x : BitVec w} (hn : w ≤ n) :
+    x.cpopAuxRec n = x.cpopAuxRec (n + k) := by
+  induction k
+  · simp
+  · case _ k ihk =>
+    simp [show n + (k + 1) = (n + k) + 1 by omega, cpopAuxRec_succ, ihk, show w ≤ n + k by omega]
+
+@[simp]
+theorem cpopAuxRec_allOnes_eq {w n : Nat} (h : n ≤ w) :
+    (BitVec.allOnes w).cpopAuxRec n = n := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    (allOnes w).cpopAuxRec n = n := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -6291,4 +6301,213 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction n
+  · case zero => simp
+  · case succ n ihn =>
+    simp only [cpopAuxRec_succ, getLsbD_allOnes, decide_eq_true_eq]
+    split
+    · rw [ihn (by omega)]
+      omega
+    · omega
+
+theorem cpop_le {w : Nat} {x : BitVec w} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpop_le (x : BitVec w) :
```

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 9fc90488ce239cfe8e4317269d37fe4160787d0d --onto a106ea053fec080a50204b0ad6dadc69bc3f0937`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-20 20:35:04)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 9fc90488ce239cfe8e4317269d37fe4160787d0d --onto 5306a3469d20caa5f9d80384a5c1effdb14e9c67`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-21 11:26:56)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 3772bb8685f2fdf414e8aa4af6f1d2964b2f64af --onto b0e6db322421ce368999f08870fd747e45242f86`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-26 11:21:06)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-11-27` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-27 10:17:58)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-11-29` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-29 17:49:36)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0e83422fb6337985c3354c263a9510cbcb4b1e05 --onto 5bd331e85d9d110a29fb3367dbb21854010ffcbd`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-02 15:24:03)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0e83422fb6337985c3354c263a9510cbcb4b1e05 --onto dd28f005889dd2fcca6fe0638133de561a655ad1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-05 10:25:03)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0e83422fb6337985c3354c263a9510cbcb4b1e05 --onto 455fd0b4488e2adc85f825a52e2ee7d944a5740a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-05 15:21:59)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0e83422fb6337985c3354c263a9510cbcb4b1e05 --onto 2ca3bc28590c5c33f755d3bd18252f25ea266266`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-08 11:12:52)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase eee58f4506d28a14c9a171165f999445a0663d93 --onto 19e1fe55f33a8aadc4243da32828b70a4b4677cc`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-11 08:49:08)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+
+@[simp]
+theorem cpopAuxRec_zero {x : BitVec w} :
+    x.cpopAuxRec 0 = 0 := by simp [BitVec.cpopAuxRec]
+
+@[simp]
+theorem cpopAuxRec_succ {w n' : Nat} {x : BitVec w} :
+    x.cpopAuxRec (n' + 1) = (if x.getLsbD n' then 1 else 0) + x.cpopAuxRec n' := by simp [BitVec.cpopAuxRec]
+
+theorem cpopAuxRec_le {w n : Nat} {x : BitVec w} (h : n ≤ w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Do you need `h` here?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 18]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  · case succ n ihn =>
+    simp only [cpopAuxRec_succ, getLsbD_allOnes, decide_eq_true_eq]
+    split
+    · rw [ihn (by omega)]
+      omega
+    · omega
+
+theorem cpop_toNat_le (x : BitVec w) :
+    x.cpop.toNat ≤ w := by
+  have h := BitVec.cpopAuxRec_le (x := x) (n :=w) (by omega)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  have h := BitVec.cpopAuxRec_le (x := x) (n := w) (by omega)
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 19]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  have := Nat.lt_pow_self (a := 2) (n := w) (by omega)
+  simp [cpop, Nat.mod_eq_of_lt (a := x.cpopAuxRec w) (b := 2 ^ (w )) (by omega), h]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  simp [cpop, Nat.mod_eq_of_lt (a := x.cpopAuxRec w) (b := 2 ^ w) (by omega), h]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction n
+  · omega
+  · case _ n ihn =>
+    by_cases hwn : w < n
+    · simp only [cpopAuxRec_succ, ihn hwn]
+      rw [
+        show (if (cons b x).getLsbD n = true then 1 else 0) + ((if b = true then 1 else 0) + x.cpopAuxRec n) =
+        (if (cons b x).getLsbD n = true then 1 else 0) + (if b = true then 1 else 0) + x.cpopAuxRec n by omega,
+        show (if b = true then 1 else 0) + ((if x.getLsbD n = true then 1 else 0) + x.cpopAuxRec n) =
+        (if x.getLsbD n = true then 1 else 0) + (if b = true then 1 else 0) + x.cpopAuxRec n by omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Is this not just `add_comm`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 21]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    ((concat x b).cpopAuxRec n) = (if b then 1 else 0) + x.cpopAuxRec (n - 1) := by
+  induction n
+  · omega
+  · case _ n ihn =>
+    by_cases hn0 : 0 < n
+    · rw [cpopAuxRec_succ, ihn (by omega), Nat.add_one_sub_one, Nat.add_comm, Nat.add_assoc,
+          Nat.add_comm, show x.cpopAuxRec n = x.cpopAuxRec (n - 1 + 1) by rw [Nat.sub_one_add_one (by omega)],
+          cpopAuxRec_succ, Nat.add_comm,
+          show (if x.getLsbD (n - 1) = true then 1 else 0) + x.cpopAuxRec (n - 1) =
+          x.cpopAuxRec (n - 1) + (if x.getLsbD (n - 1) = true then 1 else 0) by omega]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: I this not just `Nat.add_comm`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 22]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    · simp [getElem_concat, show ¬ w = 0 by omega,
+        getLsbD_eq_getElem (x := x) (i := w - 1) (by omega)]
+  · simp only [show w = 0 by omega, getElem_concat_zero, cpopAuxRec_zero, Nat.add_zero,
+    setWidth_zero, BitVec.add_zero]
+    split <;> simp
+
+@[simp]
+theorem cons_cpop_eq_concat_cpop {w : Nat} (x : BitVec w) :
+    (x.cons y).cpop = (x.concat y).cpop := by
+  rw [cpop_cons, concat_cpop]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Not sure the right hand side is more canonical. Maybe drop `@[simp]`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 23]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+
+theorem setWidth_cpop_add_eq (x : BitVec (w + 1)) :
+    (if x.msb = true then 1#(w + 1) else 0#(w + 1)) + (BitVec.setWidth w x).cpop.zeroExtend (w + 1)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: For the nam to be true, the if-then-else should be on the right of the add, no?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 24]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+@[simp]
+theorem reverse_cpop {w : Nat} (x : BitVec w) :
+    x.reverse.cpop = x.cpop := by
+  induction w
+  case zero =>
+    simp [BitVec.cpop, BitVec.cpopAuxRec]
+  case succ w' ih =>
+    rw [← concat_setWidth_reverse_msb_eq_reverse, ← cons_cpop_eq_concat_cpop, cpop_cons, ih, setWidth_cpop_add_eq]
+
+theorem cast_cpopAuxRec_eq_cpopAuxRec_of_eq {x : BitVec w}  (p : w = v) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cast_cpopAuxRec_eq_cpopAuxRec_of_eq {x : BitVec w} (p : w = v) :
```

I guess this one also can be `@[simp]`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 25]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+        rw [cons_cpopAuxRec_eq_cpopAuxRec_add (by omega) (by omega), cast_cpopAuxRec_eq_cpopAuxRec_of_eq]
+        simp only [getElem_cons, reduceDIte, Nat.add_left_cancel_iff]
+        rw [Nat.add_comm, ← cpopAuxRec_eq_of_le (x := y) (k := 1) (by omega)]
+      · specialize ihw (x := x.setWidth w)
+        rw [cons_cpopAuxRec_eq_cpopAuxRec_add (by omega) (by omega),
+          cons_cpopAuxRec_eq_cpopAuxRec_add (by omega) (by omega)]
+        simp only [show w + 1 + v = (w + v) + 1 by omega, cpopAuxRec_succ, ihw, Nat.le_refl,
+          getLsbD_of_ge, Bool.false_eq_true, reduceIte, Nat.zero_add,
+          show (if x.msb = true then 1 else 0) + ((x.setWidth w).cpopAuxRec w + y.cpopAuxRec v) =
+          (if x.msb = true then 1 else 0) + (x.setWidth w).cpopAuxRec w + y.cpopAuxRec v by omega]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Is the last one not just `Nat.add_comm`?

File: src/Init/Data/BitVec/Basic.lean [hunk 26]
```diff
@@ -870,4 +870,13 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
 /-- Count the number of trailing zeros. -/
 def ctz (x : BitVec w) : BitVec w := (x.reverse).clz
 
+/-- Count the number of bits with value `1` downward from the `n`-th bit to the `0`-th bit of `x`. -/
+def cpopAuxRec (x : BitVec w) (pos : Nat) : Nat :=
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean]: I'm a bit curious about the naming convention: Why "cpop" as opposed to "popCount"?

File: src/Init/Data/BitVec/Basic.lean [hunk 27]
```diff
@@ -870,4 +870,13 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
+  match pos with
+  | 0 => 0
+  | n + 1 => (if x.getLsbD n then 1 else 0) + x.cpopAuxRec n
+
+/-- Count the number of bits with value `1` in `x`. -/
+def cpop {w : Nat} (x : BitVec w) : BitVec w := BitVec.ofNat w (cpopAuxRec x w)
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
def cpop {v w : Nat} (x : BitVec v) : BitVec w := BitVec.ofNat w (cpopAuxRec x w)
```
The most general definition would decouple the space of the output from the space of the input, I feel; In particular, it's possible to store the result of a `popCount` in `w = log(v)` bits, so if we're defining it in terms of `BitVec.ofNat`, we may as well take the flexibility to do so :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 28]
```diff
@@ -5816,6 +5821,16 @@ theorem reverse_reverse_eq {x : BitVec w} :
   ext k hk
   rw [getElem_reverse, getMsbD_reverse, getLsbD_eq_getElem]
 
+@[simp]
+theorem concat_setWidth_reverse_msb_eq_reverse {x : BitVec (w + 1)}:
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem concat_reverse_setWidth_msb_eq_reverse {x : BitVec (w + 1)}:
```

The order of application is `concat (reverse (setWidth (msb x)))` no?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 29]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  · simp only [show w = 0 by omega, getElem_concat_zero, cpopAuxRec_zero, Nat.add_zero,
+    setWidth_zero, BitVec.add_zero]
+    split <;> simp
+
+@[simp]
+theorem cons_cpop_eq_concat_cpop {w : Nat} (x : BitVec w) :
+    (x.cons y).cpop = (x.concat y).cpop := by
+  rw [cpop_cons, concat_cpop]
+
+theorem setWidth_cpop_add_eq (x : BitVec (w + 1)) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: This feels like a *super specific* theorem. Either this should be `private theorem`, or we should explain why this super-specific theorem is useful.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 30]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    · split <;> simp
+    · simp [getElem_concat, show ¬ w = 0 by omega,
+        getLsbD_eq_getElem (x := x) (i := w - 1) (by omega)]
+  · simp only [show w = 0 by omega, getElem_concat_zero, cpopAuxRec_zero, Nat.add_zero,
+    setWidth_zero, BitVec.add_zero]
+    split <;> simp
+
+@[simp]
+theorem cons_cpop_eq_concat_cpop {w : Nat} (x : BitVec w) :
+    (x.cons y).cpop = (x.concat y).cpop := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: See that this function is actually computing `cpop (cons x y) = cpop (x concat y)` so this should be named `cpop_cons_eq_cpop_concat`
```suggestion
theorem cpop_cons_eq_cpop_concat {w : Nat} (x : BitVec w) :
    (x.cons y).cpop = (x.concat y).cpop := by
```

**Review by bollu — CHANGES_REQUESTED** [review]
This is going in a nice direction!


I think we should have a definition called `cpopAux (x : BitVec w) : Nat := cpopAuxRec x w`, and then define `cpop` in terms of `cpopAux`. In some sense `cpopAux` is the "real population count" (as a number), and `cpop` is a convenience function we provide to coerce the result into a bitvector.

--- 


Along similar lines, I would personally decouple the input and output widths of `cpop`,  to have the signature be

```lean
def cpop {v : Nat} (w : Nat) (x : BitVec v) : BitVec w := BitVec.ofNat w x
```

I'm not 100% sure this is the right design, but it feels a lot less arbitrary to me than choosing the output width, when `popCount` is really counting a *natural number*. 

---

As always, this is not final, and I'm trying to navigate the design space just as much as you are, so I'm happy to pair on this!

File: src/Init/Data/BitVec/Basic.lean (hunk 26 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: I am following the riscv isa naming conventions

File: src/Init/Data/BitVec/Basic.lean (hunk 27 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: I agree and have done so

File: src/Init/Data/BitVec/Lemmas.lean (hunk 28 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

**Comment by bollu** [comment]
Also, note that `popcount` is uniquely defined by three equations:

```
popCount (x ++ y) = popCount x + popCount y
popCount (x#0) = 0
popCount (BitVec.ofBool b) = b.toNat
```

These tell us that popcount is a monoid homomorphism from bitvectors to naturals, and does the "correct" thing. I'd like us to prove these lemmas, and to define popcount such that these hold with small proofs :) So this would have us replace the `if b then 1 else 0` with `b.toNat`

File: src/Init/Data/BitVec/Lemmas.lean (hunk 29 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed

File: src/Init/Data/BitVec/Basic.lean [hunk 31]
```diff
@@ -870,4 +870,16 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
 /-- Count the number of trailing zeros. -/
 def ctz (x : BitVec w) : BitVec w := (x.reverse).clz
 
+/-- Count the number of bits with value `1` downward from the `n`-th bit to the `0`-th bit of `x`. -/
+def cpopAuxRec (x : BitVec w) (pos : Nat) : Nat :=
+  match pos with
+  | 0 => 0
+  | n + 1 => (x.getLsbD n).toNat + x.cpopAuxRec n
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
def cpopNatRec (x : BitVec w) (pos : Nat) : Nat :=
  match pos with
  | 0 => 0
  | n + 1 => (x.getLsbD n).toNat + x.cpopNatRec n
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 32]
```diff
@@ -127,6 +127,11 @@ protected theorem toNat_lt_twoPow_of_le (h : m ≤ n) {x : BitVec m} :
   apply Nat.pow_le_pow_of_le
   <;> omega
 
+theorem toNat_ofNat_of_le {w n : Nat} (h : n ≤ w):
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem toNat_ofNat_of_le {w n : Nat} (h : n ≤ w) :
```

File: src/Init/Data/BitVec/Basic.lean [hunk 33]
```diff
@@ -870,4 +870,16 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
+
+/-- Count the number of bits with value `1` in `x`. -/
+def cpopNat (x : BitVec w) : Nat := (cpopAuxRec x w)
+
+/-- Express `cpopAux` as a `BitVec v` -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
/-- Express `cpopNat` as a `BitVec v` -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 34]
```diff
@@ -5816,6 +5821,16 @@ theorem reverse_reverse_eq {x : BitVec w} :
   ext k hk
   rw [getElem_reverse, getMsbD_reverse, getLsbD_eq_getElem]
 
+@[simp]
+theorem concat_reverse_setWidth_msb_eq_reverse {x : BitVec (w + 1)}:
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem concat_reverse_setWidth_msb_eq_reverse {x : BitVec (w + 1)} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 35]
```diff
@@ -6291,4 +6306,218 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+
+theorem concat_cpop {x : BitVec w} {b : Bool} :
+    (x.concat b).cpop v = b.toNat + x.cpop v := by
+  simp only [cpop, concat_cpopNat]
+  apply eq_of_toNat_eq
+  simp only [toNat_ofNat, toNat_add, Nat.add_mod_mod]
+  have := cpopNat_le (x := x)
+  by_cases b <;> simp
+
+theorem cons_cpopNat_eq_concat_cpopNat {w : Nat} (x : BitVec w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cons_cpopNat_eq_concat_cpopNat {x : BitVec w} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 36]
```diff
@@ -6291,4 +6306,218 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    (x.cons y).cpopNat = (x.concat y).cpopNat := by
+  rw [cpopNat_cons, concat_cpopNat]
+
+theorem cpop_cons_eq_cpop_concat {w : Nat} (x : BitVec w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpop_cons_eq_cpop_concat {x : BitVec w} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 37]
```diff
@@ -6291,4 +6306,218 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    (x.cons y).cpop v = (x.concat y).cpop v := by
+  simp [cpop, cons_cpopNat_eq_concat_cpopNat]
+
+@[simp]
+theorem reverse_cpopNat {w : Nat} (x : BitVec w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem reverse_cpopNat {x : BitVec w} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 38]
```diff
@@ -6291,4 +6306,218 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  case zero =>
+    simp [BitVec.of_length_zero]
+  case succ w' ih =>
+    rw [← concat_reverse_setWidth_msb_eq_reverse, ← cons_cpopNat_eq_concat_cpopNat, cpopNat_cons, ih]
+    conv =>
+      rhs
+      rw [← cons_msb_setWidth (x := x), cpopNat_cons]
+
+@[simp]
+theorem reverse_cpop {w : Nat} (x : BitVec w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem reverse_cpop {x : BitVec w} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 39]
```diff
@@ -6291,4 +6306,218 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    x.reverse.cpop v = x.cpop v := by
+  simp [cpop]
+
+theorem cast_cpopAuxRec_eq_cpopAuxRec_of_eq {x : BitVec w}  (p : w = v) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cast_cpopAuxRec_eq_cpopAuxRec_of_eq {x : BitVec w} (p : w = v) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 40]
```diff
@@ -6291,4 +6306,218 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    · simp [cpopAuxRec_succ, ihn hwn, getLsbD_cons, show ¬n = w by omega]
+      omega
+    · simp only [show n = w by omega, cpopAuxRec_succ, Nat.lt_add_one, getLsbD_eq_getElem,
+        getElem_cons, ↓reduceDIte, Nat.le_refl, getLsbD_of_ge]
+      rw [cons_cpopAuxRec_eq_cpopAuxRec_of_le (by omega)]
+      simp
+
+
+theorem concat_cpopAuxRec_eq_add_cpopAuxRec_of_lt {x : BitVec w} {b : Bool} (hn : 0 < n) :
+    ((concat x b).cpopAuxRec n) = b.toNat + x.cpopAuxRec (n - 1) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    (concat x b).cpopAuxRec n = b.toNat + x.cpopAuxRec (n - 1) := by
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 15 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: How was this resolved. Please comment here.

**Comment by tobiasgrosser** [comment]
- Update the PR message `BitVec.cpopAuxRec` to `BitVec.cpopNatRec`

It would also be nice if the default type conversion theorems are implemented, e.g., `toNat`, `toFin`, `toInt`, as well as `getMsb`, `getLsb`, `msb`. We can potentially do this in a fullow-up PR or after having gotten an initial review.

File: src/Init/Data/BitVec/Basic.lean (hunk 31 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: done

File: src/Init/Data/BitVec/Basic.lean (hunk 33 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 32 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 34 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 40 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 35 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 36 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 37 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 38 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 39 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 41]
```diff
@@ -5816,6 +5821,16 @@ theorem reverse_reverse_eq {x : BitVec w} :
   ext k hk
   rw [getElem_reverse, getMsbD_reverse, getLsbD_eq_getElem]
 
+@[simp]
+theorem concat_reverse_setWidth_msb_eq_reverse {x : BitVec (w + 1)} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:5824]: Should this be `w + 1`, or should this be `w` with `h : 0 < w`. Can you check the remainder of the file to see how we typically handle this?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 42]
```diff
@@ -6291,4 +6306,220 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
   exact Nat.ge_two_pow_of_testBit hclz
 
+/-! ### Population Count -/
+
+@[simp]
+theorem cpopNatRec_zero {x : BitVec w} :
+    x.cpopNatRec 0 = 0 := by simp [BitVec.cpopNatRec]
+
+@[simp]
+theorem cpopNatRec_succ {w n' : Nat} {x : BitVec w} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: - I do not think this should be `simp`.

- You should not list `w` explicitly. 

- Why do you call this `n'` instead of `n`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 43]
```diff
@@ -6291,4 +6306,220 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    x.cpopNatRec (n' + 1) = (x.getLsbD n').toNat + x.cpopNatRec n' := by simp [BitVec.cpopNatRec]
+
+theorem cpopNatRec_le {w n : Nat} {x : BitVec w} (h : n ≤ w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_le {n : Nat} {x : BitVec w} (h : n ≤ w) :
```

Is it convention to list `n` here explicitly?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 44]
```diff
@@ -6291,4 +6306,220 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    x.cpopNatRec n ≤ n := by
+  induction n
+  · simp
+  · case _ n ihn =>
+    simp only [cpopNatRec_succ]
+    by_cases h : x.getLsbD n
+    <;> simp [h]
+    <;> omega
+
+theorem cpopNatRec_le_width {w n : Nat} {x : BitVec w} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_le_width {n : Nat} {x : BitVec w} :
```

Is it convention to list `n` here explicitly?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 45]
```diff
@@ -6291,4 +6306,220 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction n
+  · simp
+  · case _ n ihn =>
+    simp only [cpopNatRec_succ]
+    by_cases hle : n < w
+    · have := cpopNatRec_le (x := x) (n := n) (by omega)
+      by_cases h : x.getLsbD n
+      <;> (simp [h]; omega)
+    · simp [show w ≤ n by omega]
+      have := cpopNatRec_le (x := x) (n := w) (by omega)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    · have := cpopNatRec_le x n (by omega)
      by_cases h : x.getLsbD n
      <;> (simp [h]; omega)
    · simp [show w ≤ n by omega]
      have := cpopNatRec_le x w (by omega)
```

I don't think we need to name the argument here, no?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Also, there are non-terminal `simp`s.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 46]
```diff
@@ -6291,4 +6306,220 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+      omega
+
+theorem cpopNatRec_eq_of_le {w n : Nat} {x : BitVec w} (hn : w ≤ n) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_eq_of_le {n : Nat} {x : BitVec w} (hn : w ≤ n) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 47]
```diff
@@ -6291,4 +6306,220 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    x.cpopNatRec n = x.cpopNatRec (n + k) := by
+  induction k
+  · simp
+  · case _ k ihk =>
+    simp [show n + (k + 1) = (n + k) + 1 by omega, cpopNatRec_succ, ihk, show w ≤ n + k by omega]
+
+@[simp]
+theorem cpopNatRec_allOnes_eq {w n : Nat} (h : n ≤ w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_allOnes_eq {n : Nat} (h : n ≤ w) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 48]
```diff
@@ -6291,4 +6306,220 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  · simp
+  · case _ n ihn =>
+    by_cases hn' : n < w
+    · simp only [cpopNatRec_succ]
+      congr 1
+      · simp [getLsbD_cons, show ¬ n = w by omega]
+      · apply ihn (by omega)
+    · omega
+
+theorem cons_cpopNatRec_eq_cpopNatRec_add {x : BitVec w} {b : Bool} (hn : w < n) (hw : 0 < w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: The theorem name seems wrong?

`cons_cpopNatRec_eq_toNat_add`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 49]
```diff
@@ -6291,4 +6306,220 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  by_cases hw0 : 0 < w
+  · rw [concat_cpopNatRec_eq_add_cpopNatRec_of_lt hw0]
+    have : x.cpopNatRec w = x.cpopNatRec (w - 1 + 1) := by rw [Nat.sub_one_add_one]; omega
+    rw [this, cpopNatRec_succ, Nat.add_comm, Nat.add_assoc,
+      Nat.add_comm (n := (x.getLsbD (w - 1)).toNat)]
+    simp only [getElem_concat, show ¬w = 0 by omega, reduceDIte, ← getLsbD_eq_getElem (x := x) (i := w - 1)]
+  · simp [show w = 0 by omega]
+
+
+theorem concat_cpop {x : BitVec w} {b : Bool} :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpop_concat {x : BitVec w} {b : Bool} :
```
?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Can you double-check the naming of all theorems?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 41 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:5824]: I think this should be a `w + 1`. Switching to having the hypothesis would require introducing a cast: 
```lean
theorem concat_reverse_setWidth_msb_eq_reverse {x : BitVec w} (hw : 0 < w) :
    concat ((x.setWidth (w - 1)).reverse) x.msb = x.reverse.cast (by omega) := by
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 42 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I called it n and removed w. I think it should be `simp`, as this is one of the two lemmas that define the constructor of `cpopNatRec`, similarly to what was done for `replicate` (replicate_succ, replicate_zero are simp). We always invoke this lemma when proving by induction

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: we did not simp clzauxrec_zero and clzauxrec_succ, and I think they too should have

File: src/Init/Data/BitVec/Lemmas.lean (hunk 43 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed w, made n explicit

File: src/Init/Data/BitVec/Lemmas.lean (hunk 44 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 45 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 46 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 47 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 48 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 49 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done another pass on everything

File: src/Init/Data/BitVec/Lemmas.lean [hunk 50]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+theorem cpopNatRec_eq_of_le {x : BitVec w} (n : Nat) (hn : w ≤ n) :
+    x.cpopNatRec n = x.cpopNatRec (n + k) := by
+  induction k
+  · simp
+  · case _ k ihk =>
+    simp [show n + (k + 1) = (n + k) + 1 by omega, cpopNatRec_succ, ihk, show w ≤ n + k by omega]
+
+@[simp]
+theorem cpopNatRec_allOnes_eq (h : n ≤ w) :
+    (BitVec.allOnes w).cpopNatRec n = n := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    (allOnes w).cpopNatRec n = n := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 51]
```diff
@@ -6291,4 +6306,217 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction n
+  · simp
+  · case _ n ihn =>
+    simp only [cpopNatRec_succ]
+    by_cases h : x.getLsbD n
+    <;> simp [h]
+    <;> omega
+
+theorem cpopNatRec_le_width {x : BitVec w} (n : Nat) :
+    x.cpopNatRec n ≤ w := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Can you go over all `_le` theorems and check they are consistent with respect to the val and width version of le, as here? Or come up with a consistent strategy.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 50 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 52]
```diff
@@ -6291,4 +6306,234 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  · case zero => simp
+  · case succ n ihn =>
+    simp only [cpopNatRec_succ, getLsbD_allOnes]
+    by_cases hlt : n < w
+    · rw [ihn (by omega)]
+      simp [hlt, Nat.add_comm]
+    · omega
+
+theorem cpopNat_le (x : BitVec w) :
+    x.cpopNat ≤ w := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Should this be c.pop.toNat?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 53]
```diff
@@ -6291,4 +6306,234 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  have := cpopNat_le (x := x)
+  have := Nat.lt_pow_self (a := 2) (n := w) (by omega)
+  simp only [toNat_ofNat, natCast_eq_ofNat, toNat_add, toNat_setWidth, Nat.add_mod_mod,
+    Nat.mod_add_mod]
+  rw [Nat.mod_eq_of_lt (b := 2 ^ (w + 1)) (by cases h : b <;> (simp; omega)),
+    Nat.mod_eq_of_lt (b := 2 ^ (w + 1)) (by cases h : b <;> (simp; omega)),
+    Nat.mod_eq_of_lt (b := 2 ^ w) (by omega)]
+
+theorem cpopNat_concat {x : BitVec w} {b : Bool} :
+    (x.concat b).cpopNat = b.toNat + x.cpopNat := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    (x.concat b).cpop.toNat = b.toNat + x.cpop.toNat := by
```

Maybe the above?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 54]
```diff
@@ -6291,4 +6306,234 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  have := cpopNat_le (x := x)
+  have := Nat.lt_pow_self (a := 2) (n := w) (by omega)
+  simp only [toNat_ofNat, natCast_eq_ofNat, toNat_add, toNat_setWidth, Nat.add_mod_mod,
+    Nat.mod_add_mod]
+  rw [Nat.mod_eq_of_lt (b := 2 ^ (w + 1)) (by cases h : b <;> (simp; omega)),
+    Nat.mod_eq_of_lt (b := 2 ^ (w + 1)) (by cases h : b <;> (simp; omega)),
+    Nat.mod_eq_of_lt (b := 2 ^ w) (by omega)]
+
+theorem cpopNat_cons_eq_cpopNat_concat (x : BitVec w) :
+    (x.cons y).cpopNat = (x.concat y).cpopNat := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    (x.cons y).cpop.toNat = (x.concat y).cpop.toNat := by
```

Maybe?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 55]
```diff
@@ -6291,4 +6306,234 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  rw [cpopNat_cons, cpopNat_concat]
+
+theorem cpop_cons_eq_cpop_concat (x : BitVec w) :
+    (x.cons y).cpop = (x.concat y).cpop := by
+  simp [cpop, cpopNat_cons_eq_cpopNat_concat]
+
+@[simp]
+theorem cpopNat_reverse (x : BitVec w) :
+    x.reverse.cpopNat = x.cpopNat := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    x.reverse.cpop.toNat = x.cpop.toNat := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 56]
```diff
@@ -6291,4 +6306,234 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+        simp only [getElem_cons, reduceDIte, Nat.add_left_cancel_iff]
+        rw [Nat.add_comm, ← cpopNatRec_eq_of_le (x := y) (n := v) (k := 1) (by omega)]
+      · specialize ihw (x := x.setWidth w)
+        rw [cpopNatRec_cons_eq_toNat_add_cpopNatRec_of_lt (by omega) (by omega),
+          cpopNatRec_cons_eq_toNat_add_cpopNatRec_of_lt (by omega) (by omega), show w + 1 + v = w + v + 1 by omega]
+        simp [ihw]
+        omega
+
+theorem cpopNat_append_eq_add_cpopNat {x : BitVec w} {y : BitVec u} :
+    (x ++ y).cpopNat = x.cpopNat + y.cpopNat := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    (x ++ y).cpopNat = x.cpop.toNat + y.cpop.toNat := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 57]
```diff
@@ -6291,4 +6306,234 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction w
+  case zero =>
+    simp [BitVec.of_length_zero]
+  case succ w' ih =>
+    rw [← concat_reverse_setWidth_msb_eq_reverse, ← cpopNat_cons_eq_cpopNat_concat, cpopNat_cons, ih]
+    conv =>
+      rhs
+      rw [← cons_msb_setWidth (x := x), cpopNat_cons]
+
+-- @[simp]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Why was this `@[simp]` tag removed?

File: src/Init/Data/BitVec/Basic.lean [hunk 58]
```diff
@@ -870,4 +870,16 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
 def ctz (x : BitVec w) : BitVec w := (x.reverse).clz
 
+/-- Count the number of bits with value `1` downward from the `n`-th bit to the `0`-th bit of `x`. -/
+def cpopNatRec (x : BitVec w) (pos : Nat) : Nat :=
+  match pos with
+  | 0 => 0
+  | n + 1 => (x.getLsbD n).toNat + x.cpopNatRec n
+
+/-- Count the number of bits with value `1` in `x`. -/
+def cpopNat (x : BitVec w) : Nat := (cpopNatRec x w)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]: Do we need this function, given that we have `cpop.toNat`. Maybe we inline this definition into `cpop`?

File: src/Init/Data/BitVec/Basic.lean [hunk 59]
```diff
@@ -870,4 +870,14 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
 def ctz (x : BitVec w) : BitVec w := (x.reverse).clz
 
+/-- Tail-recursively count the number of bits with value `1` downward from the `pos`-th bit to the
+  `0`-th bit of `x`, storing the result in `acc`. -/
+def cpopNatRec (x : BitVec w) (pos acc : Nat) : Nat :=
+  match pos with
+  | 0 => acc
+  | n + 1 => x.cpopNatRec n (acc + (x.getLsbD n).toNat)
+
+/-- Express `cpopNat` as a `BitVec w` -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
/-- Express `cpopNat` as a `BitVec w`. -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 60]
```diff
@@ -1023,6 +1028,12 @@ theorem setWidth_ofNat_one_eq_ofNat_one_of_lt {v w : Nat} (hv : 0 < v) :
   rw [Nat.mod_mod_of_dvd]
   exact Nat.pow_dvd_pow_iff_le_right'.mpr h
 
+theorem setWidth_ofNat_of_le_of_lt  (x : Nat) (h : w ≤ v) (h' : x < 2 ^ w) : setWidth v (BitVec.ofNat w x) = BitVec.ofNat v x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem setWidth_ofNat_of_le_of_lt (x : Nat) (h : w ≤ v) (h' : x < 2 ^ w) : setWidth v (BitVec.ofNat w x) = BitVec.ofNat v x := by
```

File: src/Init/Data/BitVec/Basic.lean (hunk 59 above)
Comment (luisacicolini) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
/-- population count over `x` as a `BitVec w` -/
```

File: src/Init/Data/BitVec/Basic.lean [hunk 61]
```diff
@@ -870,4 +870,14 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
 def ctz (x : BitVec w) : BitVec w := (x.reverse).clz
 
+/-- Tail-recursively count the number of bits with value `1` downward from the `pos`-th bit to the
+  `0`-th bit of `x`, storing the result in `acc`. -/
+def cpopNatRec (x : BitVec w) (pos acc : Nat) : Nat :=
+  match pos with
+  | 0 => acc
+  | n + 1 => x.cpopNatRec n (acc + (x.getLsbD n).toNat)
+
+/-- population count over `x` as a `BitVec w` -/
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
/-- Population count over `x` as a `BitVec w` -/
```

File: src/Init/Data/BitVec/Basic.lean [hunk 62]
```diff
@@ -870,4 +870,14 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
 
+/-- Tail-recursively count the number of bits with value `1` downward from the `pos`-th bit to the
+  `0`-th bit of `x`, storing the result in `acc`. -/
+def cpopNatRec (x : BitVec w) (pos acc : Nat) : Nat :=
+  match pos with
+  | 0 => acc
+  | n + 1 => x.cpopNatRec n (acc + (x.getLsbD n).toNat)
+
+/-- Population count over `x` as a `BitVec w` -/
+def cpop(x : BitVec w) : BitVec w := BitVec.ofNat w (cpopNatRec x w 0)
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
def cpop (x : BitVec w) : BitVec w := BitVec.ofNat w (cpopNatRec x w 0)
```

File: src/Init/Data/BitVec/Basic.lean [hunk 63]
```diff
@@ -870,4 +870,14 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
 def ctz (x : BitVec w) : BitVec w := (x.reverse).clz
 
+/-- Tail-recursively count the number of bits with value `1` downward from the `pos`-th bit to the
+  `0`-th bit of `x`, storing the result in `acc`. -/
+def cpopNatRec (x : BitVec w) (pos acc : Nat) : Nat :=
+  match pos with
+  | 0 => acc
+  | n + 1 => x.cpopNatRec n (acc + (x.getLsbD n).toNat)
+
+/-- Population count over `x` as a `BitVec w` -/
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Basic.lean]:
```suggestion
/-- Population count over `x` as a `BitVec w`. -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 64]
```diff
@@ -127,6 +127,11 @@ protected theorem toNat_lt_twoPow_of_le (h : m ≤ n) {x : BitVec m} :
   apply Nat.pow_le_pow_of_le
   <;> omega
 
+theorem toNat_ofNat_of_le {w n : Nat} (h : n ≤ w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
@[simp]
theorem toNat_ofNat_of_le {w n : Nat} (h : n ≤ w) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 65]
```diff
@@ -1023,6 +1028,12 @@ theorem setWidth_ofNat_one_eq_ofNat_one_of_lt {v w : Nat} (hv : 0 < v) :
   rw [Nat.mod_mod_of_dvd]
   exact Nat.pow_dvd_pow_iff_le_right'.mpr h
 
+theorem setWidth_ofNat_of_le_of_lt (x : Nat) (h : w ≤ v) (h' : x < 2 ^ w) : setWidth v (BitVec.ofNat w x) = BitVec.ofNat v x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
@[simp]
theorem setWidth_ofNat_of_le_of_lt (x : Nat) (h : w ≤ v) (h' : x < 2 ^ w) :
    setWidth v (BitVec.ofNat w x) = BitVec.ofNat v x := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 66]
```diff
@@ -6291,4 +6312,252 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    specialize ihn (acc := acc + ((cons b x).getLsbD n).toNat) (by omega)
+    rw [cpopNatRec_succ, ihn, getLsbD_cons]
+    simp [show ¬ n = w by omega]
+
+theorem cpopNatRec_cons_eq_toNat_add_cpopNatRec_of_lt {x : BitVec w} {b : Bool} (hn : w < n) :
+    (cons b x).cpopNatRec n acc = b.toNat + x.cpopNatRec n acc := by
+  induction n generalizing acc
+  · omega
+  · case _ n ihn =>
+    simp
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: Non-terminal simp.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 64 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: this theorem afaik is not even used anymore, I was thinking of removing it entirely and upstream it in another pr. what do you think @tobiasgrosser ?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 66 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean [hunk 67]
```diff
@@ -6291,4 +6314,252 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  · omega
+  · omega
+  · exact heq_of_eqRec_eq (congrArg (Eq w) (id (Eq.symm p))) rfl
+
+@[simp]
+theorem cpop_cast (h : w = v) (x : BitVec w) :
+  (x.cast h).cpop = x.cpop.cast h := by
+  subst h; simp
+
+@[simp]
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:6526]: I don't understand: why is this `simp`?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 64 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Sounds sensible. Keeping the PR small is a good idea.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 67 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:6526]: No strong reason. Its probably better to remove the simp here. Also, none of my code is incredibly polished. Feel free to arrange it the way you see best fit.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 68]
```diff
@@ -1023,6 +1028,14 @@ theorem setWidth_ofNat_one_eq_ofNat_one_of_lt {v w : Nat} (hv : 0 < v) :
   rw [Nat.mod_mod_of_dvd]
   exact Nat.pow_dvd_pow_iff_le_right'.mpr h
 
+@[simp]
+theorem setWidth_ofNat_of_le_of_lt (x : Nat) (h : w ≤ v) (h' : x < 2 ^ w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem setWidth_ofNat_of_le_of_lt {x : Nat} (h : w ≤ v) (h' : x < 2 ^ w) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 69]
```diff
@@ -6291,4 +6309,239 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+
+@[simp]
+theorem cpopNatRec_zero :
+    (0#w).cpopNatRec n acc = acc := by
+  induction n
+  · case zero => simp
+  · case succ n ihn =>
+    simp [cpopNatRec_succ, ihn]
+
+theorem cpopNatRec_eq_add_cpopNatRec_zero {x : BitVec w} {acc n : Nat}:
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_eq_add_cpopNatRec_zero {x : BitVec w} {acc n : Nat} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 70]
```diff
@@ -6291,4 +6309,239 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    x.cpopNatRec n acc = x.cpopNatRec n 0 + acc := by
+  induction n generalizing acc
+  · simp
+  · case _ n ihn =>
+    simp only [cpopNatRec_succ, Nat.zero_add]
+    have ihn' := ihn (acc := acc + (x.getLsbD n).toNat)
+    have ihn'' := ihn (acc := (x.getLsbD n).toNat)
+    rw [ihn', ihn'', Nat.add_assoc, Nat.add_comm acc]
+
+theorem cpopNatRec_add_eq_add_cpopNatRec {x : BitVec w} {acc n : Nat}:
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_add_eq_add_cpopNatRec {x : BitVec w} {acc n : Nat} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 71]
```diff
@@ -6291,4 +6309,239 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
   exact Nat.ge_two_pow_of_testBit hclz
 
+/-! ### Population Count -/
+
+@[simp]
+theorem cpopNatRec_zero_eq_self {x : BitVec w} :
+    x.cpopNatRec 0 acc = acc := by simp [BitVec.cpopNatRec]
+
+theorem cpopNatRec_succ {n : Nat} {x : BitVec w} :
+    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat):= by simp [BitVec.cpopNatRec]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Any reason this is not a simp theorem?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 72]
```diff
@@ -6291,4 +6309,239 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction n generalizing acc
+  · simp
+  · case _ n ihn =>
+    have : (x.getLsbD n).toNat ≤ 1 := by cases x.getLsbD n <;> simp
+    specialize ihn (by omega) (acc:= acc + (x.getLsbD n).toNat)
+    simp [cpopNatRec_succ]
+    omega
+
+theorem cpopNatRec_eq_of_le {x : BitVec w} (n : Nat) (hn : w ≤ n) :
+    x.cpopNatRec n acc = x.cpopNatRec (n + k) acc := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_eq_cpopNatRec_add_of_le {x : BitVec w} (n : Nat) (hn : w ≤ n) :
    x.cpopNatRec n acc = x.cpopNatRec (n + k) acc := by
```
maybe? I don't really have good lemma names here.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 73]
```diff
@@ -6291,4 +6309,239 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+
+@[simp]
+theorem cpopNatRec_cons_eq_cpopNatRec_of_le {x : BitVec w} {b : Bool} (hn : n ≤ w) :
+    (cons b x).cpopNatRec n acc = x.cpopNatRec n acc := by
+  induction n generalizing acc
+  · simp
+  · case _ n ihn =>
+    specialize ihn (acc := acc + ((cons b x).getLsbD n).toNat) (by omega)
+    rw [cpopNatRec_succ, ihn, getLsbD_cons]
+    simp [show ¬ n = w by omega, cpopNatRec_succ]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: We don't use this, so I'd drop it. The rule of thumb is that we want just enough theory on `cpopNatRec` to be able to prove theorems about `cpop`. In this case, it seems like the `lt` version suffices, so I'd drop the `le` version.


```suggestion
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 74]
```diff
@@ -6291,4 +6309,239 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    rw [← concat_reverse_setWidth_msb_eq_reverse, cpop_concat, ihw, ← cpop_cons]
+    simp
+
+@[simp]
+theorem cpopNatRec_cast_eq_cpopNatRec_of_eq {x : BitVec w} (p : w = v) :
+    (x.cast p).cpopNatRec n = x.cpopNatRec n := by
+  congr
+  · omega
+  · omega
+  · exact heq_of_eqRec_eq (congrArg (Eq w) (id (Eq.symm p))) rfl
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Can we have a less cryptic proof instead of the `exact`? :D

File: src/Init/Data/BitVec/Lemmas.lean [hunk 75]
```diff
@@ -6291,4 +6309,239 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+
+theorem toNat_cpop (x : BitVec w) :
+    x.cpop.toNat = x.cpopNatRec w 0 := by
+  have := cpopNatRec_le x w
+  have := toNat_cpop_le x
+  have := @Nat.lt_pow_self w 2 (by omega)
+  rw [cpop, toNat_ofNat, Nat.mod_eq_of_lt]
+  omega
+
+theorem toNat_cpop_cons {x : BitVec w} {b : Bool} :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:6454]:
```suggestion
@[simp]
theorem toNat_cpop_cons {x : BitVec w} {b : Bool} :
```

**Review by bollu — APPROVED** [review]
LGTM. 

I didn't check proof strategies. I did check for the proofs looking sane, and for following the usual guidelines (non-terminal simps, having enough lemmas to make proofs look sensible, etc).

File: src/Init/Data/BitVec/Lemmas.lean (hunk 71 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: @tobiasgrosser suggested it should not be

File: src/Init/Data/BitVec/Lemmas.lean (hunk 72 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 73 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: no, the theorem is used

File: src/Init/Data/BitVec/Lemmas.lean (hunk 74 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 75 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6454]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 15 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed bitvec

File: src/Init/Data/BitVec/Lemmas.lean (hunk 17 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: dropped

File: src/Init/Data/BitVec/Lemmas.lean (hunk 16 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 52 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed cpoopNat

File: src/Init/Data/BitVec/Lemmas.lean (hunk 53 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed cpopNat

File: src/Init/Data/BitVec/Lemmas.lean (hunk 54 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed cpopNat

File: src/Init/Data/BitVec/Lemmas.lean (hunk 55 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed cpopNat

File: src/Init/Data/BitVec/Lemmas.lean (hunk 56 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Basic.lean (hunk 58 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: removed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 65 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 76]
```diff
@@ -6291,4 +6309,237 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
   have hclz := getLsbD_true_ctz_of_ne_zero (x := x) hx
   exact Nat.ge_two_pow_of_testBit hclz
 
+/-! ### Population Count -/
+
+@[simp]
+theorem cpopNatRec_zero_eq_self {x : BitVec w} :
+    x.cpopNatRec 0 acc = acc := by simp [BitVec.cpopNatRec]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_zero_eq_self {x : BitVec w} :
    x.cpopNatRec 0 acc = acc := rfl
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 77]
```diff
@@ -6291,4 +6309,237 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+
+theorem cpopNatRec_succ {n : Nat} {x : BitVec w} :
+    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat):= by simp [BitVec.cpopNatRec]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
@[simp]
theorem cpopNatRec_succ {n : Nat} {x : BitVec w} :
    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat):= rfl
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 78]
```diff
@@ -6291,4 +6309,237 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
   exact Nat.ge_two_pow_of_testBit hclz
 
+/-! ### Population Count -/
+
+@[simp]
+theorem cpopNatRec_zero_eq_self {x : BitVec w} :
+    x.cpopNatRec 0 acc = acc := by rfl
+
+theorem cpopNatRec_succ {n : Nat} {x : BitVec w} :
+    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat):= by rfl
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat) := by rfl
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 79]
```diff
@@ -6291,4 +6309,237 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
   have hclz := getLsbD_true_ctz_of_ne_zero (x := x) hx
   exact Nat.ge_two_pow_of_testBit hclz
 
+/-! ### Population Count -/
+
+@[simp]
+theorem cpopNatRec_zero_eq_self {x : BitVec w} :
+    x.cpopNatRec 0 acc = acc := by rfl
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    x.cpopNatRec 0 acc = acc := rfl
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 80]
```diff
@@ -6291,4 +6309,237 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
   exact Nat.ge_two_pow_of_testBit hclz
 
+/-! ### Population Count -/
+
+@[simp]
+theorem cpopNatRec_zero_eq_self {x : BitVec w} :
+    x.cpopNatRec 0 acc = acc := rfl
+
+theorem cpopNatRec_succ {n : Nat} {x : BitVec w} :
+    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat) := by rfl
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat) := rfl
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 81]
```diff
@@ -6291,4 +6309,226 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
   exact Nat.ge_two_pow_of_testBit hclz
 
+/-! ### Population Count -/
+
+@[simp]
+theorem cpopNatRec_zero_eq_self {x : BitVec w} :
+    x.cpopNatRec 0 acc = acc := rfl
+
+theorem cpopNatRec_succ {n : Nat} {x : BitVec w} :
+    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat):= rfl
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    x.cpopNatRec (n + 1) acc = x.cpopNatRec n (acc + (x.getLsbD n).toNat) := rfl
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 82]
```diff
@@ -6291,4 +6309,229 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction n generalizing acc
+  · simp
+  · case _ n ihn =>
+    have : (x.getLsbD n).toNat ≤ 1 := by cases x.getLsbD n <;> simp
+    specialize ihn (acc := acc + (x.getLsbD n).toNat)
+    simp
+    omega
+
+theorem cpopNatRec_eq_of_le {x : BitVec w} (n : Nat) (hn : w ≤ n) :
+    x.cpopNatRec n acc = x.cpopNatRec (n + k) acc := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]: List `k` explicit as an argument?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Also, should this be reversed and `simp`? The LHS seems to be strictly simpler? This would also give us a better name for the theorem, no?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 83]
```diff
@@ -6291,4 +6309,229 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+theorem toNat_cpop_le (x : BitVec w) :
+    x.cpop.toNat ≤ w := by
+  have hlt := Nat.lt_pow_self (a := 2) (n := w) (by omega)
+  have hle := cpopNatRec_zero_le (x := x) (n := w)
+  simp only [cpop, toNat_ofNat, ge_iff_le]
+  rw [Nat.mod_eq_of_lt (by omega)]
+  exact hle
+
+@[simp]
+theorem cpopNatRec_cons_eq_of_le {x : BitVec w} {b : Bool} (hn : n ≤ w) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_cons_of_le {x : BitVec w} {b : Bool} (hn : n ≤ w) :
```

Do we need the `eq`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 84]
```diff
@@ -6291,4 +6309,229 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    (cons b x).cpopNatRec n acc = x.cpopNatRec n acc := by
+  induction n generalizing acc
+  · simp
+  · case _ n ihn =>
+    specialize ihn (acc := acc + ((cons b x).getLsbD n).toNat) (by omega)
+    rw [cpopNatRec_succ, ihn, getLsbD_cons]
+    simp [show ¬ n = w by omega]
+
+@[simp]
+theorem cpopNatRec_cons_eq_of_lt {x : BitVec w} {b : Bool} (hn : w < n) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_cons_of_lt {x : BitVec w} {b : Bool} (hn : w < n) :
```

Do we need the `eq_` here?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 85]
```diff
@@ -6291,4 +6309,229 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  induction n generalizing acc
+  · omega
+  · case _ n ihn =>
+    by_cases hlt : w < n
+    · rw [cpopNatRec_succ, ihn (acc := acc + ((cons b x).getLsbD n).toNat) (by omega)]
+      simp [getLsbD_cons, show ¬ n = w by omega]
+    · simp [show w = n by omega, getElem_cons,
+        cpopNatRec_add (acc := acc) (acc' := b.toNat), Nat.add_comm]
+
+theorem cpopNatRec_concat_eq_of_lt {x : BitVec w} {b : Bool} (hn : 0 < n) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem cpopNatRec_concat_of_lt {x : BitVec w} {b : Bool} (hn : 0 < n) :
```

Do we need the `eq_` here?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 82 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done and reversed to simp, I agree

File: src/Init/Data/BitVec/Lemmas.lean (hunk 83 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 85 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 84 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed

**Comment by luisacicolini** [comment]
changelog-library

File: src/Init/Data/BitVec/Lemmas.lean [hunk 86]
```diff
@@ -6291,4 +6309,232 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+    (0#w).cpopNatRec n acc = acc := by
+  induction n
+  · case zero => simp
+  · case succ n ihn =>
+    simp [ihn]
+
+theorem cpopNatRec_eq {x : BitVec w} {n : Nat} (acc : Nat):
+    x.cpopNatRec n acc = x.cpopNatRec n 0 + acc := by
+  induction n generalizing acc
+  · simp
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]: Can we keep the style consistent within this PR? Above you have `· case zero => simp`. Please stick to one.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 87]
```diff
@@ -6291,4 +6309,232 @@ theorem two_pow_ctz_le_toNat_of_ne_zero {x : BitVec w} (hx : x ≠ 0#w) :
...
+  case succ pos ih =>
+    simp only [cpopNatRec_succ, getLsbD_setWidth]
+    rw [ih]
+    · congr
+      by_cases h : pos < v
+      <;> simp [h]
+      omega
+    · omega
+
+theorem cpop_cons {x : BitVec w} {b : Bool} :
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean:6473]: Why are the `toNat` versions simp and not these ones?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 86 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 87 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:6473]: In the `toNat` theorem the `rhs` seems definitely easier than the `lhs`, for this theorem I don't think that's necessarily true, because of the `setWidth`. Do you think that is strictly easier even with the `setWidth`?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:6473]: AFAIU, the convention is to push `toNat` inwards. I do not think we have a canonical form for the plain `cpop_cons`.

**Comment by luisacicolini** [comment]
> Looks quite good! I'll defer to Markus after the two remaining remarks.

Thank you for the review @hargoniX :) I have addressed the comments and rebased the PR!
This is good to go for me, @TwoFX I would appreciate your review.

File: src/Init/Data/BitVec/Basic.lean [hunk 88]
```diff
@@ -870,4 +870,14 @@ def clz (x : BitVec w) : BitVec w := clzAuxRec x (w - 1)
...
 
+/-- Count the number of bits with value `1` downward from the `pos`-th bit to the
+  `0`-th bit of `x`, storing the result in `acc`. -/
+def cpopNatRec (x : BitVec w) (pos acc : Nat) : Nat :=
+  match pos with
+  | 0 => acc
+  | n + 1 => x.cpopNatRec n (acc + (x.getLsbD n).toNat)
+
+/-- Count the number of bits with value `1` in `x`. -/
+def cpop (x : BitVec w) : BitVec w := BitVec.ofNat w (cpopNatRec x w 0)
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Basic.lean:878]: People are definitely going to look for `BitVec.popcount` and `BitVec.popcnt`, so the docstring should contain the strings `popcount` and `popcnt`, and I think it would also be great if you would add `suggest_for` annotations for those two names (cf. #11554).

**Comment by luisacicolini** [comment]
thank you for the review!! :)
